Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
simvastatin
 
Attending: ___.
 
Chief Complaint:
weakness, dysarthria
 
Major Surgical or Invasive Procedure:
PEG placement

 
History of Present Illness:
per Dr. ___ admission note:
Mr. ___ is a ___ M w PMHx of HTN, HLD, DM, and basilar 
thrombosis with resultant infarcts in the cerebellum, pons, and 
midbrain ___ ___ who is transferred to ___ for new 
worsening dysarthria and right sided weakness.

Mr. ___ was hospitalized at ___ from ___ to ___ 
after presenting with a basilar artery thrombus resulting in 
several small ischemic strokes in the bilateral cerebellar 
hemispheres and R thalamus. During that complicated hospital 
stay, Mr. ___ was initially managed in the ICU with 
anticoagulation for his basilar artery thrombus. Unfortuantely, 
he developed new mibrain and pontine infarctions. He was 
severely debilited and underwent trach and PEG on ___. He was 
discharged on coumadin for his basilar artery thrombus. He was 
then switched to apirin 325mg one month ago after a repeat CTA 
was stable.  
Mr. ___ is accompanied by his wife, who provides the below 
history. She states that on ___, Mr. ___ had an episode of 
diarrhea but was otherwise well. The diarrhea persisted on ___ 
and he asked to take a nap in the early afternoon. When he awoke 
from his nap, his wife noted that he appeared generally weaker 
and had difficulty eating his lunch - it took a great effort to 
chew and swallow and he was also drooling quite a bit. She also 
notes that his speech was ever so slightly more dysarthric (she 
can usually understand approximately 90% of what he says, on 
___ it was 80%). Mr. ___ also complained of a headache a 
that time which is very unusual for him. Ms. ___ then called 
EMS, and Mr. ___ presented to ___ with 
worsening dysarthria and weakness. A ___ performed in the ED 
there was without hemorrhage or obvious signs of new stroke. He 
was admitted to the hospital after neurology noted chronic L 
sided weakness and new RUE/RLE UMN weakness and noted they 
recommended an MRI for further evaluation.  

On the morning of ___, Mrs. ___ states that she thinks Mr. 
___ was ever so slightly improved from the day prior. He was 
able to take is breakfast without too much difficult and he did 
well working with ___. His speech was also nearly back to 
baseline. She does note that he had a low grade temperature that 
day to 100.7.

At around noon, however, she noticed a worsening in Mr. ___ 
condition. He was drooling, unable to chew his lunch, and unable 
to suck through a straw for liquids. She also reports that his 
speech began to get much worse at this time. From noon until 4PM 
he continued to worsen, becoming weaker and more dysarthric. She 
estimates that at its worst, she could only understand 10% of 
what he was saying at that he was speaking one word or even one 
letter at a time.

Mr. ___ did have an MRI at ___ at approximately 
4PM on ___. MRI demonstrated show new small L midbrain 
infarct; MRA redemonstrated know cerebrovascular disease. He was 
subsequently transferred to ___ as he has received his prior 
neurology care here.

Mr. ___ is unable to participate in full ROS, pertinent 
findings are noted above.
 
Past Medical History:
- Basilar thrombosis with resultant infarcts in the cerebellum,
pons, and midbrain
- Hypertension
- Diabetes mellitus
- HLD
 
Social History:
___
Family History:
- No h/o strokes, clotting disorders
- Mother died of lung Ca (smoker)
 
Physical Exam:
===========
ADMISSION EXAM
===========
VS T98.2 BP186/115 HR85 RR22 Sat93%RA
GEN - Awake, cooperative, 
HEENT - NC/AT, eye patch over R eye, preferentially rotates head
~30 degrees to his left, thick secretions in oropharynx
NECK - Supple, no nuchal rigidity
RESP - +upper airway noise
CV - RRR, warm and well perfused
ABD - soft, nontender, nondistended
SKIN - red ?petechial rash over R hand
 
Neurologic Exam:

MENTAL STATUS
Alert and oriented x3. Severe dysarthria limits ability to
participate in history or give verbal responses during
examination. Speech is slow and slurred, c/b inability to clear
secretions. Does provide additional history detail and wife
reports no concerns regarding his MS.

___ NERVES
II: PERRL 2->1mm and brisk bilaterally. VFF to confrontation. 
III, IV, VI: R eye w restricted ROM in all directions, L eye
unable to abduct or adduct fully (new)
V: Facial sensation intact to light touch, temperature
VII: ?new R lower facial droop
VIII: Hearing intact to voice
IX, X: ?decreased elevation of R palate
XI: ___ strength in SCM bilaterally
XII: Tongue protrudes in right of midline but has full ROM
 
MOTOR
Increase tone in LUE and LLE. Decreased tone in RUE and RLE.
 Delt Bic Tri WrE FFl FE   IP Quad Ham TA ___
L  ___  ___   4+   5   4+  5    5     5 
R  ___  ___   3    ___    5     5 
 
REFLEXES
    Bi  Tri  ___  Pat  Ach
L   2+   2+    2+    2    3 ___ beats of clonus)
R   2+   2+    2+    2    1
- Toes are upgoing bilaterally
- Pectoralis Jerk absent, crossed adductors are absent 
- +R grasp
 
SENSORY:
Difficult to assess in patient with severely impaired 
communication. Responds to light touch throughout. ?Decreased 
sensation with some allodynia on the left arm.

COORDINATION:
+Dysmetria with L FNF, per wife: "worse than baseline". Also 
dysmetric on the R, but complicated by weakness.

GAIT: wheelchair bound

=================================
Discharge physical exam = Awake & alert. Sitting in bed wearing 
eye patch ___ diplopia. Emotially lable & cries easily. 
Dysarthric/anarthric. Limited abduction of the left eye. Left 
eye down & in at rest. Flat left NLF. Lt UE ___ ___ ___ 
distally. Lt ___ ___ ___ ___ distally. Moves Rt side well. + 
BS. Mild abdominal tenderness. PEG site clean. No tenderness.
 
Pertinent Results:
ADMISSION LABS:
___ 01:31AM BLOOD WBC-11.1*# RBC-4.39* Hgb-13.3* Hct-37.5* 
MCV-86 MCH-30.3 MCHC-35.4* RDW-13.3 Plt ___
___ 01:31AM BLOOD Neuts-81.9* Lymphs-10.4* Monos-6.0 
Eos-1.4 Baso-0.2
___ 01:31AM BLOOD ___ PTT-32.4 ___
___ 01:31AM BLOOD Glucose-115* UreaN-7 Creat-0.7 Na-144 
K-2.8* Cl-106 HCO3-25 AnGap-16
___ 01:31AM BLOOD ALT-12 AST-15 CK(CPK)-74 AlkPhos-79 
TotBili-1.3
___ 01:31AM BLOOD Calcium-9.2 Phos-3.5 Mg-1.8 

DISCHARGE LABS: 
___ 04:08AM BLOOD WBC-10.5 RBC-4.36* Hgb-13.3* Hct-38.7* 
MCV-89 MCH-30.4 MCHC-34.3 RDW-13.7 Plt ___
___ 04:08AM BLOOD ___ PTT-58.4* ___
___ 04:08AM BLOOD Glucose-123* UreaN-18 Creat-0.7 Na-141 
K-3.5 Cl-103 HCO3-32 AnGap-10

STROKE RISK FACTORS:
Cholest-66
Triglyc-83 
HDL-24 
CHOL/HD-2.8 
LDLcalc-25

%HbA1c-5.7 eAG-117
TSH-1.1

IMAGING:
MR/MRA head (___)
IMPRESSION: 
1. Slightly increased size of the brainstem infarct compared to 
MRI from ___, with a new area of infarct just 
inferior to the pons in the right pontomedullary junction 
(series 6, image 8).
2. Limited MRA due to patient motion. Occlusion of the basilar 
artery and near complete occlusion of the V4 segment of the left 
vertebral artery are similar to MRA from ___. The 
superior cerebellar and posterior cerebral arteries are not 
visualized on the current MRA, although resolution is limited on 
the current study and no infarcts are identified within these 
territories on current MRI. If there is a need to evaluate the 
intracranial vasculature with better resolution, CTA could be 
considered.

XR Elbow (___)
FINDINGS: 
 
There is soft tissue swelling over the olecranon.  This is 
nonspecific but could reflect olecranon bursitis.  Lateral view 
is oblique, limiting assessment for joint effusion. No acute 
fracture or bone lesion is seen. Joint spaces appear preserved.

 
Brief Hospital Course:
# NEURO: ___ was transferred from ___ with 
symptoms of worsening dysarthria and a new pontine stroke 
demonstrated on MRI. His symptoms were at first attributed to 
hypoperfusion due to hypotension in the setting of known basilar 
artery thrombus, but upon review of records from his 
hospitalization prior to transfer there was no recorded 
hypotension. Despite maintaining permissive hypertension during 
the current admission he had the subsequent expansion of his 
infarct, demonstrated on repeat MRI. He was thus started on 
heparin gtt as bridge to coumadin. He will need to remain on 
coumadin until his outpatient Vascular Neurology followup. His 
risk factors were again measured and his LDL was 25 and A1c was 
5.7%. He failed his swallow study due to severe dysphagia so a 
PEG tube was placed. He was evaluated by ___ and OT who 
recommended acute rehab to address his right sided weakness and 
ataxia as well as his severe dysarthria. On ___ he started 
Coumadin, but will be discharged to rehab on heparin drip (goal 
PTT 50-70, no boluses) until INR therapeutic. His home Aspirin 
325mg daily was stopped in hospital due to alternate use of 
anticoagulation; will consider restarting at outpatient 
neurology follow-up. 

# CARDIOVASC: Permissive hypertension was maintained for 
majority of hospitalization, then home meds (lisinopril and 
atenolol) were restarted. On discharge he was still 
intermittently hypertensive to SBP 150s-180s. Thus, increased 
atenolol from 25mg daily to 50mg daily (home dose) on day of 
discharge. Will need BP monitoring at rehab to aim for final 
goal SBP 130-140. 

# PSYCH: Patient was intermittently tearful and depressed during 
hospitalization, with a pseudobulbar affect at time. This may 
have been some degree of post-stroke depression but also suspect 
symptoms are pseudobulbar secondary to involvement of mibrain 
and pons in stroke. Started fluoxetine 10mg daily during 
hospitalization. 

# RHEUM: He developed swelling over his left elbow concerning 
for olecranon bursitis. He was evaluated by rheumatology who 
performed a joint aspiration which confirmed bursitis. This was 
managed with supportive care. 

-----------------
TRANSITIONS OF CARE:
- Needs daily INR monitoring while uptitrating Coumadin 
- Goal SBP 130-140, may need antihypertensives uptitrated, 
increased Lisinopril from 20mg daily to 30mg daily on discharge 
(___)

====================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident] – () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? (x) Yes (LDL = 
25) - () No

5. Intensive statin therapy administered? () Yes - (x) No [if 
LDL >= 100, reason not given: ____ ]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? () Yes - (x) No [if no, 
reason: (x) non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - () N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Doxazosin 4 mg PO HS 
3. Lisinopril 20 mg PO QHS 
4. ClonazePAM 0.5 mg PO QHS 
5. Atenolol 50 mg PO QHS 
6. Aspirin 325 mg PO QHS 
7. Docusate Sodium 100 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1. Atenolol 50 mg PO QHS 
2. Atorvastatin 40 mg PO QPM 
3. ClonazePAM 0.25 mg PO QHS 
4. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
5. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
6. Fluoxetine 10 mg PO DAILY 
7. Heparin IV 
No Initial Bolus
Initial Infusion Rate: 1800 units/hr
Start: Today - ___, First Dose: 1100 
Goal PTT 50-70. 
NO BOLUSES.  
8. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
9. Miconazole Powder 2% 1 Appl TP BID:PRN rash 
10. Warfarin 5 mg PO DAILY16 
11. Doxazosin 4 mg PO HS 
12. Lisinopril 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Basilar artery occlusion with infarction
s/p PEG tube

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

Discharge physical exam = Awake & alert. Sitting in bed wearing 
eye patch ___ diplopia. Emotially lable & cries easily. 
Dysarthric/anarthric. Limited abduction of the left eye. Left 
eye down & in at rest. Flat left NLF. Lt UE ___ ___ ___ 
distally. Lt ___ ___ ___ ___ distally. Moves Rt side well. + 
BS. Mild abdominal tenderness. PEG site clean. No tenderness.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of slurred speech and 
right-sided weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition in which a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
 - basilar artery thrombus
 - high blood pressure
 - high cholesterol
 - diabetes

We are changing your medications as follows:
- restarting coumadin

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician 
as listed below.

It was a pleasure providing you with care during this 
hospitalization.

 
Followup Instructions:
___